US08563550B2
(4-Fluoro-phenyl)-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine (0.065 g, 0.18 mmol) was suspended in 1,4-dioxane (1 mL) at room temperature, and argon was bubbled into the mixture while tetrakis(triphenylphosphine)-palladium(0) (21 mg, 0.018 mmol), 4-hydroxyphenylboronic acid (21 mg, 0.21 mmol), cesium carbonate (118 mg, 0.36 mmol) and water (1 mL) were added. The mixture was deoxygenated for 10 minutes and heated under microwave irradiation at 140° C. for 30 minutes. On cooling, the mixture was diluted with dichloromethane (5 mL), adsorbed in silica and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.4:9.6 to 1:9) to give 4-[2-(4-fluoro-phenylamino)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenol as a beige solid (21 mg, 36% yield).

reactant | (4-Fluoro-phenyl)-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine | 0.18 mmol, 0.065 g | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2I | C10H6FIN4S
reactant | 4-hydroxyphenylboronic acid | 0.21 mmol, 21 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | cesium carbonate | 0.36 mmol, 118 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.018 mmol, 21 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[2-(4-fluoro-phenylamino)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenol | 21 mg, 36% yield | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2C2=CC=C(C=C2)O | C16H11FN4OS
